US04535089
3.5 g of ethyl 3-(4-fluorobenzoylamino)-3-isovalerylpropionate, 20 ml of dimethylformamide and 4.1 g of phosphorus oxychloride are treated in the same manner as described in Example 1. 2.5 g of ethyl 2-[2-(4-fluorophenyl)-5-isobutyl-4-oxazolyl]acetate are thereby obtained. Yield: 75.5%.

reactant | ethyl 3-(4-fluorobenzoylamino)-3-isovalerylpropionate | 3.5 g | FC1=CC=C(C(=O)NC(CC(=O)OCC)C(CC(C)C)=O)C=C1 | C17H22FNO4
reactant | phosphorus oxychloride | 4.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-(4-fluorophenyl)-5-isobutyl-4-oxazolyl]acetate | 2.5 g, Yield: 75.5% | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)CC(C)C | C17H20FNO3
